US05786367
2 Grams of 6-allyloxy-3,4-dihydro-2(1H)-quinolinone was dissolved in 50 ml of dimethyl-formamide, then 0.5 g of 60% oily sodium hydride and 5 ml of p-bromoanisole were added thereto by the procedures similar to those employed in Reference example 7, further 4 g of cuprous chloride was added, and stirred at 120° C. for 24 hours. The inorganic materials were removed by filtration, and the filtrate was concentrated under reduced pressure. Thus obtained residual product was subjected to extraction with 200 ml of methylene chloride, the extract was washed with water and an aqueous solution saturated with sodium chloride. Then the extract was concentrated and subjected to purification by passing through a silica gel column, there was obtained 1.3 g (42%) of 6-allyloxy-3,4-dihydro-1-(4-methoxyphenyl)-2(1H)-quinolinone.

reactant | 6-allyloxy-3,4-dihydro-2(1H)-quinolinone | C(C=C)OC=1C=C2CCC(NC2=CC1)=O | C12H13NO2
reactant | sodium hydride | 0.5 g | [H-].[Na+]
reactant | p-bromoanisole | 5 ml | BrC1=CC=C(C=C1)OC | C7H7BrO
solvent | dimethyl-formamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-allyloxy-3,4-dihydro-1-(4-methoxyphenyl)-2(1H)-quinolinone | 1.3 g, 42% | C(C=C)OC=1C=C2CCC(N(C2=CC1)C1=CC=C(C=C1)OC)=O | C19H19NO3
